US04678786
To a stirred solution of benzofuro[2,3-c]-pyridazine (5.09 g) in dimethylformamide (40 ml) containing a suspension of sodium hydride (1.68 g, 50% oil) was added dry methanol (1.5 ml). The mixture was heated to 70° C. for 30 minutes and treated with epibromohydrin (10.2 ml) and stirring was continued at room temperature for 150 minutes. The mixture was poured into water (300 ml), taken to pH 10 with sodium hydroxide, extracted into dichloromethane and the organic extract was evaporated under reduced pressure to afford an oil that was purified by column chromatography (silica, chloroform-petrol, chloroform, chloroform-methanol) to afford 4-[2-(2,3-epoxypropoxy)phenyl]-3-methoxypyridazine as an oil. This was heated under reflux for 60 minutes with t-butylamine (20 ml) in methanol (50 ml) and the mixture was allowed to stand overnight. Evaporation under reduced pressure afford an oil which on treatment with diethyl ether-petrol gave 4-(2-[3-t-butylamino-2-hydroxypropoxy)phenyl]-3-methoxypyridazine, m.p. 109.5°-110.5° C. from cyclohexane.

reactant | benzofuro[2,3-c]-pyridazine | 5.09 g | N1=NC=CC2=C1OC1=C2C=CC=C1 | C10H6N2O
reactant | sodium hydride | 1.68 g | [H-].[Na+]
reactant | epibromohydrin | 10.2 ml | C(Br)C1CO1 | C3H5BrO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
solvent | methanol | 1.5 ml | CO | CH4O
product | 4-[2-(2,3-epoxypropoxy)phenyl]-3-methoxypyridazine | O1C(COC2=C(C=CC=C2)C2=C(N=NC=C2)OC)C1 | C14H14N2O3
